US07723356B2
Siv) (R)-Cyclohexyl-hydroxy-phenyl-acetic acid
(S)-cyclohex-1-enyl-hydroxy-phenyl-acetic acid (120 g, 0.517 mol) is dissolved in methanol (678 ml) under an inert atmosphere of Argon and then treated with palladium on carbon (6 g, 10% w/w). The resulting suspension is stirred under an atmosphere of hydrogen for 22 hours and then filtered through celite. The solvent is removed in vacuo to yield the titled product.

reactant | (S)-cyclohex-1-enyl-hydroxy-phenyl-acetic acid | 0.517 mol, 120 g | C1(=CCCCC1)[C@@](C(=O)O)(C1=CC=CC=C1)O | C14H16O3
solvent | methanol | 678 ml | CO | CH4O
catalyst | palladium on carbon | 6 g | [Pd] | Pd
product | (R)-Cyclohexyl-hydroxy-phenyl-acetic acid | C1(CCCCC1)[C@](C(=O)O)(C1=CC=CC=C1)O | C14H18O3
